US07179812B2
{2-[2-(4-Chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-yl}-methanol (0.100 g, 0.40 mmol) is dissolved in anhydrous tetrahydrofuran (THF) (3 ml) followed by addition of sodium tert-butoxide (NaOtBu) (0.043 g, 0.43 mmol). After stirring for 15 min at r.t. 3-chloro-6-(4-[1,2,3]triazol-1-yl-butyl)-pyridazine (0.075 g, 0.32 mmol) is added slowly and stirred for further 4 h at 60° C. Ethyl acetate (20 ml) is added, the mixture is washed with saturated ammonium chloride (NH4Cl), dried over MgSO4 and concentrated in vacuo. After flash column chromatography (ethyl acetate/methanol 98:2) 3-{2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-6-(4-[1,2,3]triazol-1-yl-butyl)-pyridazine is isolated as a colorless solid. Yield 0.105 g (73%).

reactant | {2-[2-(4-Chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-yl}-methanol | 0.40 mmol, 0.100 g | ClC1=CC(=C(C=C1)C=CC=1OC=C(N1)CO)F | C12H9ClFNO2
reactant | sodium tert-butoxide | 0.43 mmol, 0.043 g | CC(C)([O-])C.[Na+]
reactant | 3-chloro-6-(4-[1,2,3]triazol-1-yl-butyl)-pyridazine | 0.32 mmol, 0.075 g | ClC=1N=NC(=CC1)CCCCN1N=NC=C1 | C10H12ClN5
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-{2-[2-(4-chloro-2-fluoro-phenyl)-vinyl]-oxazol-4-ylmethoxy}-6-(4-[1,2,3]triazol-1-yl-butyl)-pyridazine | ClC1=CC(=C(C=C1)C=CC=1OC=C(N1)COC=1N=NC(=CC1)CCCCN1N=NC=C1)F | C22H20ClFN6O2
